US08648081B2
Add a solution of LiHMDS (1 M in THF, 4.3 ml, 4.31 mmol) to a mixture of 1-(4-chlorobenzo[b]thiophen-2-yl)ethanone (0.6 g, 2.87 mmol) in dry THF (10 mL) at −78° C. under N2. After stirring 1.5 hour at −78° C., add 1-(3,5-dichlorophenyl)-2,2,2-trifluoroethanone (836 mg, 3.44 mmol) to the reaction mixture and stir the resultant mixture for additional 2 hours. Quench the reaction with saturated NH4Cl solution and extract the aqueous mixture with EtOAc (10 mL×3). The combined organic layers are washed with brine, dried over anhydrous Na2SO4 and concentrated under vacuum afford crude 1-(4-chlorobenzo[b]thiophen-2-yl)-3-(3,5-dichlorophenyl)-4,4,4-trifluoro-3-hydroxybutan-1-one as brown solid (1.1 g, 84.6%). 1H NMR (400 MHz, CDCl3) δ 8.10-8.07 (s, 1H), 7.75 (d, J=5.2, 1H), 7.47-7.36 (m, 2H), 2.72-2.68 (s, 3H).

reactant | LiHMDS | 4.31 mmol, 1 M, 4.3 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 1-(4-chlorobenzo[b]thiophen-2-yl)ethanone | 2.87 mmol, 0.6 g | ClC1=CC=CC=2SC(=CC21)C(C)=O | C10H7ClOS
reactant | 1-(3,5-dichlorophenyl)-2,2,2-trifluoroethanone | 3.44 mmol, 836 mg | ClC=1C=C(C=C(C1)Cl)C(C(F)(F)F)=O | C8H3Cl2F3O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(4-chlorobenzo[b]thiophen-2-yl)-3-(3,5-dichlorophenyl)-4,4,4-trifluoro-3-hydroxybutan-1-one | 1.1 g, 84.6% | ClC1=CC=CC=2SC(=CC21)C(CC(C(F)(F)F)(O)C2=CC(=CC(=C2)Cl)Cl)=O | C18H10Cl3F3O2S
